data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4555,5195,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:11]=[N:12][C:13]2([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,19.402279250627146,-36.00612041490617
4721,5389,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([CH3:18])([CH3:19])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,25.78243117512305,-7.584143361684947
570,624,[CH3:10][N+:11](=[CH:12][C:13]#[N:14])[CH-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[CH:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:11]([CH3:10])[CH:12]2[C:13]#[N:14],water,298.15,20.95287280588924,-26.998870081630216
4471,5103,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[C:16]1([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,28.548311750706866,-10.175512247265704
1334,1463,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:18]=[C:19]2[C:20]#[N:21],water,298.15,15.63715906878646,-34.68607169321092
3573,4079,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[N:16]=[C:17]1[C:18]#[N:19],water,298.15,16.266107602954495,-40.32916987846953
959,1042,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[CH:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18]#[N:19])[O:20][CH:21]3[C:22]#[N:23],water,298.15,12.158554212241228,-66.24815425854854
944,1025,[CH3:10][N-:11][NH+:12]=[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[F:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[N:11]([CH3:10])[NH:12][C:13]1([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,17.108093138853402,-48.681807410117685
2424,2692,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30])[C:31](=[O:32])[O:33][CH3:34].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([C:31](=[O:32])[O:33][CH3:34])[NH:23][C:24]3([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30],water,298.15,18.438729930236587,-33.60403128531312
2756,3062,[CH3:19][NH:20][C:21](=[O:22])[C:23]([C:24]#[N:25])=[N+:26]([CH3:27])[CH-:28][C:29](=[O:30])[O:31][CH3:32].[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:24]#[N:25])[N:26]([CH3:27])[CH:28]2[C:29](=[O:30])[O:31][CH3:32],water,298.15,13.019054004426229,-40.02727952415453
3781,4331,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH-:8][N+:9]([CH3:10])=[C:11]([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:12]([CH3:13])=[O:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:9]([CH3:10])[CH:8]1[CH3:7],water,298.15,18.297669245482915,-9.504633671702884
